US05091387
N-Tricyclo(3.3.1.1 (3,7))dec-2-yl-spiro(1H-indene-1,4'-piperidine)-1'-carboxamide
Spiro(1H-indene-1,4'-piperidine) (20 mg, 0.108 mmol) and 2-adamantyl isocyanate (18 mg, 0.10 mmol) were combined in CH2Cl2 and stirred overnight at ambient temperature. An additional 5 mg (0.028 mmol) of 2-adamantyl isocyanate and 2 drops of triethylamine were added and the mixture again stirred overnight at ambient temperature. The mixture was chromatographed directly on a silica gel column eluted with CH2Cl2 followed by 0.5% and 1% methanol in CH2Cl2. The product fractions were combined and evaporated to dryness in vacuo, and the residue was crystallized from petroleum ether to provide the title compound as a solid: (mp 189°-191°).

reactant | Spiro(1H-indene-1,4'-piperidine) | 0.108 mmol, 20 mg | N1CCC2(CC1)C=CC1=CC=CC=C12 | C13H15N
reactant | 2-adamantyl isocyanate | 0.10 mmol, 18 mg | C12C(C3CC(CC(C1)C3)C2)N=C=O | C11H15NO
reactant | 2-adamantyl isocyanate | 0.028 mmol, 5 mg | C12C(C3CC(CC(C1)C3)C2)N=C=O | C11H15NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | N-Tricyclo(3.3.1.1 (3,7))dec-2-yl-spiro(1H-indene-1,4'-piperidine)-1'-carboxamide | C12C(C3CC(CC(C1)C3)C2)NC(=O)N2CCC3(CC2)C=CC2=CC=CC=C23 | C24H30N2O
